US04160081
22.4 g (0.08 mol) of the 4-(maleinamidyl)-phthalic acid manufactured according to Example 3, paragraph 1, are suspended in 150 ml of anhydrous methylene chloride and 37.8 ml of trifluoroacetic anhydride are added. The reaction mixture is stirred for 2 hours at 20°-25° C., whilst excluding atmospheric moisture. 30.5 g of pyridine are then added dropwise whilst cooling with ice (internal temperature 20°-25° C.). The reaction mixture is then stirred for a further 2 hours at 20°-25° C. and filtered, and the filter residue is washed with a little methylene chloride and dried under a high vacuum. 14.7 g (75% of theory) of 4-isomaleinimidyl)-phthalic anhydride are obtained in the form of slightly yellowish crystals; decomposition at 195°-207° C.

reactant | trifluoroacetic anhydride | 37.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 30.5 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
